US09169210B2
2-[N-(3,5-Dimethyl-benzoyl)-N′-(2-ethyl-3-methoxy-benzoyl)-hydrazino]-2-methyl-propionic acid was prepared by oxidation of 2-ethyl-3-methoxy-benzoic acid N′-(3,5-dimethyl-benzoyl)-N′-(1,1-dimethyl-2-oxo-ethyl)-hydrazide with KMnO4. The corresponding ester could not be saponified to the acid shown, even with 40% NaO/CH3OH, or 50% aqueous NaOH+EtOH with reflux.

reactant | 2-ethyl-3-methoxy-benzoic acid N′-(3,5-dimethyl-benzoyl)-N′-(1,1-dimethyl-2-oxo-ethyl)-hydrazide | CC=1C=C(C(=O)N(NC(C2=C(C(=CC=C2)OC)CC)=O)C(C=O)(C)C)C=C(C1)C | C23H28N2O4
reactant | KMnO4 | [O-][Mn](=O)(=O)=O.[K+]
reactant | NaOH EtOH | [OH-].[Na+].CCO
product | 2-[N-(3,5-Dimethyl-benzoyl)-N′-(2-ethyl-3-methoxy-benzoyl)-hydrazino]-2-methyl-propionic acid | CC=1C=C(C(=O)N(NC(C2=C(C(=CC=C2)OC)CC)=O)C(C(=O)O)(C)C)C=C(C1)C | C23H28N2O5
